US09023847B2
50. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-trifluoromethoxy-benzylamino)-ethyl]-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide using 3-(trifluoromethoxy)benzaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 476 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.52 (1H, br. s.) 10.29 (1H, s) 8.04 (1H, t, J=5.56 Hz) 8.01 (1H, d, J=5.42 Hz) 7.77 (1H, dd, J=5.42, 0.15 Hz) 7.47 (1H, d, J=5.37 Hz) 7.39 (1H, d, J=7.76 Hz) 7.26-7.35 (3H, m) 7.18 (1H, d, J=7.96 Hz) 6.80 (1H, d, J=5.42 Hz) 6.42 (1H, dd, J=3.47, 1.90 Hz) 3.74 (2H, s) 3.35 (2H, q, J=6.35 Hz) 2.63 (2H, t, J=6.49 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | 3-(trifluoromethoxy)benzaldehyde | FC(OC=1C=C(C=O)C=CC1)(F)F | C8H5F3O2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-trifluoromethoxy-benzylamino)-ethyl]-amide | FC(OC=1C=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=CC1)(F)F | C22H20F3N5O2S
